US09145380B2
b) 5-Amino-2,3-dihydro-1H-indene-4-sulfonamide compound with 6-amino-2,3-dihydro-1H-indene-5-sulfonamide (1:1)
Sulfurisocyanatidic chloride (0.752 mL, 8.63 mmol) and anhydrous nitroethane (10 mL) were mixed, cooled to −5° C. (ice/salt-bath) and a solution of 2,3-dihydro-1H-inden-5-amine (1 g, 7.51 mmol) in anhydrous nitroethane (10 mL) was added dropwise under vigorous stirring. When the addition was completed, anhydrous aluminum chloride (1.251 g, 9.39 mmol) was added and the suspension was heated at 110° C. for 60 min. The solution was cooled to room temperature and diluted with water (50 mL) and ethyl acetate (50 mL). The mixture was filtered and the layers were separated. The organic phase was dried over magnesium sulfate and concentrated under vacuum. The residue was dissolved in sulfuric acid and water (1:1 30 mL) and heated at 140° C. for 90 min before it was allowed to reach room temperature and stirred over night. The mixture was neutralized using 15% sodium hydroxide and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated under vacuum to give 0.664 g (21% yield) of the title mixture.

reactant | Sulfurisocyanatidic chloride | 8.63 mmol, 0.752 mL | S(=O)(=O)(N=C=O)Cl | CClNO3S
reactant | 2,3-dihydro-1H-inden-5-amine | 7.51 mmol, 1 g | C1CCC2=CC(=CC=C12)N | C9H11N
reactant | aluminum chloride | 9.39 mmol, 1.251 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitroethane | 10 mL | [N+](=O)([O-])CC | C2H5NO2
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | nitroethane | 10 mL | [N+](=O)([O-])CC | C2H5NO2
product | 5-Amino-2,3-dihydro-1H-indene-4-sulfonamide compound with 6-amino-2,3-dihydro-1H-indene-5-sulfonamide | 0.664 g, 21% yield | NC1=C(C=C2CCCC2=C1)S(=O)(=O)N.NC1=C(C=2CCCC2C=C1)S(=O)(=O)N | 2C9H12N2O2S
